US03959322
Reflux dl-13-ethyl-17β-hydroxygon-4-en-3-one (3.0 g) with acetic anhydride (45 cc), acetyl chloride (24 cc) and pyridine (2.4 cc) for three hours. Take to dryness under reduced pressure and partition the residue between benzene-ether and water. Triturate the crude product with hot ether to obtain dl-3,17-diacetoxy-13-ethylgona-3,5-diene (3.125 g), m.p. 148°-156°; λ max. KBr 5.68, 5.78, 6.0, 6.11 μ; λ max. EtOh 238 mμ (ε19,500).

reactant | 13-ethyl-17β-hydroxygon-4-en-3-one | 3.0 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | acetic anhydride | 45 cc | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | 24 cc | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2.4 cc | N1=CC=CC=C1 | C5H5N
product | 3,17-diacetoxy-13-ethylgona-3,5-diene | 3.125 g | C(C)(=O)OC1=CC2=CC[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)OC(C)=O)CC)[C@H]2CC1 | C23H32O4
